US04797129
Preparation of 2,6-diaminonitrobenzene
68 mg of palladium at a concentration of 10% on charcoal are added to 0.016 mole (3 g) of 4-chloro-2,6-diaminonitro-benzene in 6 ml of triethylamine, and 1.32 ml of formic acid are then added dropwise. A high exothermicity is noted. The reaction medium is heated to 90° C. for 1 hour 30. After dilution of the reaction mixture with ethanol, the catalyst is removed by hot filtration. The filtrate, evaporated to dryness under reduced pressure, enables a dry extract to be obtained. After dilution of the dry extract with water, the expected product precipitates. After filtration and washing with water, followed by drying under vacuum in the presence of phosphorus pentoxide, it is recrystallized from toluene. It melts at 142° C. (literature 141° C., 145° C.).

reactant | 4-chloro-2,6-diaminonitro-benzene | 0.016 mole, 3 g | ClC1=CC(=C(C(=C1)N)[N+](=O)[O-])N | C6H6ClN3O2
reactant | formic acid | 1.32 ml | C(=O)O | CH2O2
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium | 68 mg | [Pd] | Pd
product | 2,6-diaminonitrobenzene | NC1=C(C(=CC=C1)N)[N+](=O)[O-] | C6H7N3O2
